* cp_ibias_pvt2.spice -- sweep 2: Lm 7/7.5/8 um x XMP2 1.45/1.55/1.65 um.
* Sweep 1 (cp_ibias_pvt_*.log): Lm 6 gave ~1015 nA and a -7..-27 % down-heavy pump.
* cp_ibias_pvt.spice -- pump up/down currents with cp_bias (from the 40 uA ibias
* reference) in place of tiny_pll_bias_gen, sweeping the long mirror length Lm.
* Same measurement as cp_mismatch_pvt2.spice (i(Vout1) = +up, i(Vout2) = -down).
* Target: ~800 nA each at tt/27 C/1.2 V, and a SMALL spread across corners --
* the self-biased generator gave 398-5684 nA.  Run under sim/run_corners.sh.
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
.endc
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.include cp_bias_p.inc
.include ../netlists/blocks.inc
.include cp_p.inc
.global sub!
Vsub sub! 0 0
VDD Vdd 0 1.2
VSS Vss 0 0
Iref Vdd vbias dc 40u
xref vbias Vss ibias_mirror
xb Vdd Vss vbias bn bp cp_bias
Vout1 o1 0 0.6
Vup1  u1 0 1.2
Vdn1  d1 0 0
x1 Vdd Vdd Vss Vss o1 u1 d1 bn bp cp_p
Vout2 o2 0 0.6
Vup2  u2 0 0
Vdn2  d2 0 1.2
x2 Vdd Vdd Vss Vss o2 u2 d2 bn bp cp_p
.control
foreach lm 7 7.5 8
 foreach wp2 1.45 1.55 1.65
 alterparam Wp = 1.8
 alterparam Ls = 1
 alterparam Wm = 0.5
 alterparam Lm = $lm
 alterparam Wp2 = $wp2
 reset
 foreach tmp -40 27 125
  foreach vd 1.08 1.2 1.32
   set temp = $tmp
   alter VDD = $vd
   foreach vo 0.50 0.60 0.70
    alter Vout1 dc = $vo
    alter Vout2 dc = $vo
    op
    let p_lm = $lm
    let p_wp2 = $wp2
    let p_temp = $tmp
    let p_vdd = $vd
    let p_vout = $vo
    let i_up_nA = 1e9*i(Vout1)
    let i_dn_nA = -1e9*i(Vout2)
    print p_lm p_wp2 p_temp p_vdd p_vout i_up_nA i_dn_nA
    echo ROWEND
   end
  end
 end
 end
end
quit
.endc
.end
